US04894385
Methyl 4-[1-(2-methoxyphenyl)-2-(imidazol-1-yl)ethylthio]benzoate
8.3 ml of trifluoroacetic acid were added, whilst ice-cooling, to a mixture of 578 mg of methyl 4-mercaptobenzoate and 500 mg of 1-[2-hydroxy-2-(2-methoxyphenyl)ethyl]imidazole, and the mixture was stirred at a temperature between 0° and 5° C. for 2.7 hours, and then at room temperature for 2.5 hours.

reactant | trifluoroacetic acid | 8.3 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | methyl 4-mercaptobenzoate | 578 mg | SC1=CC=C(C(=O)OC)C=C1 | C8H8O2S
reactant | 1-[2-hydroxy-2-(2-methoxyphenyl)ethyl]imidazole | 500 mg | OC(CN1C=NC=C1)C1=C(C=CC=C1)OC | C12H14N2O2
product | Methyl 4-[1-(2-methoxyphenyl)-2-(imidazol-1-yl)ethylthio]benzoate | COC1=C(C=CC=C1)C(CN1C=NC=C1)SC1=CC=C(C(=O)OC)C=C1 | C20H20N2O3S
